US08067426B2
Intermediate 70: N2-[(1R)-1-Methylbutyl]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine
A crude sample of (2R)-2-pentanamine containing dichloromethane (11.12 g containing ca 3.1 g, 35.6 mmol of amine) was added to a suspension of 2-fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (5.00 g, 21.08 mmol) in ethylene glycol (50 ml). The mixture was heated at 110° C. for 20 hours and then cooled to room temperature and partitioned between water (200 ml) and ethyl acetate (200 ml). The organic phase was separated, washed with saturated brine, dried over anhydrous magnesium sulphate, filtered and evaporated. The residue was dissolved in dichloromethane and purified on a 110 g aminopropyl (NH2) cartridge using a 0-100% ethyl acetate-cyclohexane gradient over 40 mins. The appropriate fractions were combined and evaporated in vacuo and the residue triturated with diethyl ether and some insoluble starting material removed by filtration. Evaporation of the ether filtrate afforded the title compound as an off-white foam (2.34 g).

reactant | (2R)-2-pentanamine | C[C@H](CCC)N | C5H13N
reactant | dichloromethane | 35.6 mmol, 11.12 g | ClCCl | CH2Cl2
reactant | 2-fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 21.08 mmol, 5.00 g | FC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12FN5O
solvent | ethylene glycol | 50 ml | C(CO)O | C2H6O2
product | N2-[(1R)-1-Methylbutyl]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine | 2.34 g | C[C@H](CCC)NC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C15H24N6O
